US06703387B2
To 100 mg (0.24 mmol) of [8-(3-methoxyphenyl)-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl]phosphonic acid diethyl ester in 2 ml of tetrahydrofuran was added 17 mg (0.42 mmol) of sodium hydride (60% dispersion in mineral oil). After 10 minutes 44 mg (0.25 mmol) of 3,4-dichlorobenzaldehyde was added and the mixture was stirred for 3 hours. The product was purified by column chromatography (20 g IST pre-packed column) eluting with 1% methanol/ethyl acetate and treated with 0.10 ml of 4M hydrogen chloride in dioxan. The solvent was evaporated to leave a red gum which was recrystallized from ethyl acetate to give 25 mg of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-8-(3-methoxyphenyl)-1-methyl-1H-1,4-benzodiazepine dihydrochloride as an orange solid; MS: m/e 436 (M+).

reactant | [8-(3-methoxyphenyl)-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl]phosphonic acid diethyl ester | 0.24 mmol, 100 mg | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=C(C=C2)C2=CC(=CC=C2)OC | C22H29N2O4P
reactant | sodium hydride | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | 3,4-dichlorobenzaldehyde | 0.25 mmol, 44 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-8-(3-methoxyphenyl)-1-methyl-1H-1,4-benzodiazepine dihydrochloride | 25 mg | Cl.Cl.ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=CC(=C3)C3=CC(=CC=C3)OC)C)C=CC1Cl | InChI=1S/C25H22Cl2N2O.2ClH/c1-29-13-12-28-24(11-7-17-6-10-22(26)23(27)14-17)21-9-8-19(16-25(21)29)18-4-3-5-20(15-18)30-2;;/h3-11,14-16H,12-13H2,1-2H3;2*1H
